US07576062B2
At 0° C., trifluoroacetic acid (20 ml) was added to a solution of N-((1R)-1-{N-[(1R)-1-benzyl-2-((3S)-3-((dimethylamino)methyl)piperidin-1-yl)-2-oxoethyl]-N-methylcarbamoyl}-2-(2-naphthyl)ethyl)-N-methylcarbamic acid tert-butyl ester (1.18 g, 1.92 mmol) in dichloromethane (20 ml). The reaction mixture was stirred for 50 min at 0° C. The solvent was removed in vacuo. The residue was dissolved in dichloromethane (80 ml) and the solvent was removed in vacuo. The latter procedure was repeated two times. The crude product was purified by flash chromatography on silica (40 g), using dichloromethane/methanol/25% aqueous ammonia (100:10:1) as eluent, to give 788 mg of (2R)—N-[(1R)-1-benzyl-2-((3S)-3-((dimethylamino)methyl)piperidin-1-yl)-2-oxoethyl]-N-methyl-2-(methylamino)-3-(2-naphthyl)-propionamide.

reactant | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-((1R)-1-{N-[(1R)-1-benzyl-2-((3S)-3-((dimethylamino)methyl)piperidin-1-yl)-2-oxoethyl]-N-methylcarbamoyl}-2-(2-naphthyl)ethyl)-N-methylcarbamic acid tert-butyl ester | 1.92 mmol, 1.18 g | C(C)(C)(C)OC(N(C)[C@H](CC1=CC2=CC=CC=C2C=C1)C(N(C)[C@@H](C(=O)N1C[C@@H](CCC1)CN(C)C)CC1=CC=CC=C1)=O)=O | C37H50N4O4
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (2R)—N-[(1R)-1-benzyl-2-((3S)-3-((dimethylamino)methyl)piperidin-1-yl)-2-oxoethyl]-N-methyl-2-(methylamino)-3-(2-naphthyl)-propionamide | 788 mg | C(C1=CC=CC=C1)[C@H](C(=O)N1C[C@@H](CCC1)CN(C)C)N(C([C@@H](CC1=CC2=CC=CC=C2C=C1)NC)=O)C | C32H42N4O2
